US04489003
A mixture of 3.45 g (10 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 100 mg of powdered potassium cyanide and 9.90 g of 4-chlorobenzyl alcohol is heated at 130° for 48 hours, the mixture is diluted with about 20 ml of methylene chloride and chromatographed on about 300 g of silica gel while eluting with ethyl acetate. By recrystallization from ethyl acetate there is obtained p-chlorobenzyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 183°-184°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 10 mmol, 3.45 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 100 mg | [C-]#N.[K+]
reactant | 4-chlorobenzyl alcohol | 9.90 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
solvent | methylene chloride | about 20 ml | C(Cl)Cl | CH2Cl2
product | p-chlorobenzyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3=CC=C(C=C3)Cl)CCC1)=O | C22H17Cl2N3O3
